US08486979B2
3-(5-(pyridin-3-yl)-1,2,4-oxadiazol-3-yl)benzonitrile
3-Cyano-N′-hydroxybenzimidamide (0.322 g, 1 mmol) was dissolved in pyridine (10 mL) and nicotinoyl chloride (Aldrich, 0.141 g, 1 mmol) was added. The reaction mixture was heated to reflux for 3 hours and cooled to room temperature. The cooled reaction mixture was quenched with water (25 mL) and filtered. The solid was further purified with flash column chromatography (5% methanol/dichloromethane) to give the titled compound. 1H NMR (300 MHz, DMSO-d6) δ 7.75-7.71 (dd, J=5.7, 4.1 Hz, 1 H), 7.85 (t, J=7.8 Hz, 1 H), 8.15-8.12 (d, J=7.8 Hz, 1 H) 8.44-8.42 (m, 1 H), 8.50 (m, 1 H), 8.60-8.56 (m, 1 H), 8.93-8.91 (dd, J=1.7 Hz, 1 H), 9.37-9.38 (d, J=1.7 Hz, 1 H) ppm; MS (DCI/NH3) m/z 249 (M+H)+.

reactant | 3-Cyano-N′-hydroxybenzimidamide | 1 mmol, 0.322 g | C(#N)C=1C=C(C(N)=NO)C=CC1 | C8H7N3O
reactant | nicotinoyl chloride | 1 mmol, 0.141 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(5-(pyridin-3-yl)-1,2,4-oxadiazol-3-yl)benzonitrile | N1=CC(=CC=C1)C1=NC(=NO1)C=1C=C(C#N)C=CC1 | C14H8N4O
